US04983596
To a solution of 4-nitrobenzyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate (0.95 g) in dichloroethane (20 ml) was added rhodium(II) acetate (10 mg) under refluxing in a nitrogen stream. After refluxing for 1 hour, the mixture was concentrated under reduced pressure to give a residue. The residue was dissolved in anhydrous acetonitrile (20 ml). To the mixture were added diphenyl chlorophosphate (0.52 ml) and N,N-diisopropyl-N-ethylamine (0.51 ml) at -10°~-5° C. in a nitrogen stream. The mixture was stirred at the same condition for 1 hour. To the mixture were added N,N-diisopropyl-N-ethylamine (0.51 ml) and a solution of (2S,4S)-2-(2-fluoroethyloxymethyl)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (0.87 g) in acetonitrile (2 ml) successively at -20° C. The mixture was stirred at the same condition for 30 minutes and then at 0°-10° C. for 3 hours. The mixture was poured into a mixture of water (50 ml) and ethyl acetate (50 ml). The organic layer was separated, washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (20 g) and eluted with a mixture of acetone and dichloromethane (5:95 and then, 10:90 V/V) to give 4-nitrobenzyl (4R,5S,6S)-3-[(2S,4S)-2-(2-fluoroethyloxymethyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.83 g).

reactant | 4-nitrobenzyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate | 0.95 g | [N+](=[N-])=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@H](C)[C@H]1NC([C@@H]1[C@@H](C)O)=O)=O | C17H18N4O7
reactant | diphenyl chlorophosphate | 0.52 ml | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | N,N-diisopropyl-N-ethylamine | 0.51 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,N-diisopropyl-N-ethylamine | 0.51 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S,4S)-2-(2-fluoroethyloxymethyl)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.87 g | FCCOC[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H19FN2O5S
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
catalyst | rhodium(II) acetate | 10 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 4-nitrobenzyl (4R,5S,6S)-3-[(2S,4S)-2-(2-fluoroethyloxymethyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.83 g | FCCOC[C@H]1N(C[C@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C32H35FN4O11S
